US04029787
6-Chloro-4-(4-methylpiperazine-1-yl)-3-sulfamoylbenzoic acid
A mixture of 50 g of 4,6-dichloro-3-sulfamoylbenzonitrile, 0.1 l of dioxane and 21 g of N-methylpiperazine was stirred for 2 hours at 100° C. Subsequently, the reaction solution was introduced into 0.3 l of water, the crystalline precipitate was suction-filtered, washed with water and recrystallized from ethanol.

reactant | 4,6-dichloro-3-sulfamoylbenzonitrile | 50 g | ClC1=C(C=C(C#N)C(=C1)Cl)S(N)(=O)=O | C7H4Cl2N2O2S
reactant | dioxane | 0.1 l | O1CCOCC1 | C4H8O2
reactant | N-methylpiperazine | 21 g | CN1CCNCC1 | C5H12N2
reactant | water | 0.3 l | O | H2O
product | 6-Chloro-4-(4-methylpiperazine-1-yl)-3-sulfamoylbenzoic acid | ClC1=CC(=C(C=C1C(=O)O)S(N)(=O)=O)N1CCN(CC1)C | C12H16ClN3O4S
